US05206240
3,4-Dihydro-6-methoxy-1'-[1,3-dimethylpyrimidin-2,4-(1H,3H)-dione-6-yl]spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one
A solution of 3,4-dihydro-6-methoxyspiro-[(2H)-1-benzopyran-2,4'-piperidin]-4-one hydrochloride (0.568 g, 2 mmol), 6-chloro-1,3-dimethylpyrimidine-2,4-(1H,3H)-dione (0.349 g, 2 mmol) and sodium bicarbonate (0.42 g, 5 mmol) in acetonitrile was heated at reflux for 42 hours. After cooling, the reaction mixture was concentrated in vacuo to dryness. The residue was partitioned between chloroform and water. The chloroform solution was washed twice with water and once with saturated brine solution and then dried over sodium sulfate and concentrated to dryness in vacuo. The solid residue was recrystallized from methanol/ethanol to give the title compound (0.47 g, 61% yield) mp 202°-203° C.

reactant | 3,4-dihydro-6-methoxyspiro-[(2H)-1-benzopyran-2,4'-piperidin]-4-one hydrochloride | 2 mmol, 0.568 g | Cl.COC=1C=CC2=C(C(CC3(CCNCC3)O2)=O)C1
reactant | 6-chloro-1,3-dimethylpyrimidine-2,4-(1H,3H)-dione | 2 mmol, 0.349 g | ClC1=CC(N(C(N1C)=O)C)=O | C6H7ClN2O2
reactant | sodium bicarbonate | 5 mmol, 0.42 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,4-Dihydro-6-methoxy-1'-[1,3-dimethylpyrimidin-2,4-(1H,3H)-dione-6-yl]spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 0.47 g, 61% yield | COC=1C=CC2=C(C(CC3(CCN(CC3)C3=CC(N(C(N3C)=O)C)=O)O2)=O)C1 | C20H23N3O5
